US05155133
b) 4-[3-[ethyl[3-(-propylthio) propyl]- amino]-2-hydroxypropoxy]-benzonitrile
4.7 g of 4-[3-(ethylamino)-2-hydroxypropoxy]-benzonitrile, 4.5 g of 1-bromo-3-(propylthio)-propane and 5.8 g potassium carbonate were mixed in 50 ml isopropanol and refluxed over night. The mixture was filtrated and evaporated. The residual oil 8.3 g was separated by column chromatography. Yield 4.9 g of the title compound.

reactant | 4-[3-(ethylamino)-2-hydroxypropoxy]-benzonitrile | 4.7 g | C(C)NCC(COC1=CC=C(C#N)C=C1)O | C12H16N2O2
reactant | 1-bromo-3-(propylthio)-propane | 4.5 g | BrCCCSCCC | C6H13BrS
reactant | potassium carbonate | 5.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 4-[3-[ethyl[3-(-propylthio) propyl]- amino]-2-hydroxypropoxy]-benzonitrile | C(C)N(CC(COC1=CC=C(C#N)C=C1)O)CCCSCCC | C18H28N2O2S
